US09359381B2
Step 4: 10-(4-Chlorothiazol-2-yl)-1,3-dimethyl-5-(1-methyl-1H-pyrazol-3-yl)-7,8-dihydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione
Pyridine hydrochloride (6.02 g, 52.1 mmol) was added to a suspension of 6-(4-(4-chlorothiazol-2-yl)-4-oxobutyl)-1,3-dimethyl-5-(1-methyl-1H-pyrazol-3-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (2.33 g, 5.21 mmol) in methanol (82 ml) and water (8.17 ml) and the mixture stirred at room temperature for 3 days. The mixture was then diluted with chloroform (300 ml), washed with 1M HCl(aq) (3×100 ml) and saturated NaHCO3(aq) (100 ml). The organic phase was passed through a hydrophobic frit and evaporated under vacuum. Purification by chromatography on silica, eluting with 50-80% EtOAc/hexane afforded a crude material which was triturated with methanol to afford the title compound.

reactant | Pyridine hydrochloride | 52.1 mmol, 6.02 g | Cl.N1=CC=CC=C1
reactant | 6-(4-(4-chlorothiazol-2-yl)-4-oxobutyl)-1,3-dimethyl-5-(1-methyl-1H-pyrazol-3-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 5.21 mmol, 2.33 g | ClC=1N=C(SC1)C(CCCN1C=C2N(C(N(C(C2=C1C1=NN(C=C1)C)=O)C)=O)C)=O | C19H19ClN6O3S
solvent | methanol | 82 ml | CO | CH4O
solvent | water | 8.17 ml | O | H2O
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 10-(4-Chlorothiazol-2-yl)-1,3-dimethyl-5-(1-methyl-1H-pyrazol-3-yl)-7,8-dihydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione | ClC=1N=C(SC1)C1=CCCN2C(=C3C(=C12)N(C(N(C3=O)C)=O)C)C3=NN(C=C3)C | C19H17ClN6O2S
